US07456164B2
Dimethyl-{4-[4-(2-methyl-3-pyrrolidin-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (0.91 g, 3.87 mmol), 1-(3-chloro-2-methyl-propyl)-pyrrolidine (500 mg, 3.10 mmol), DMF (5 ml) and K2CO3 (2.14 g, 15.50 mmol) were reacted together according to general procedure B. The organic phase was washed with 2M NaOH (3×20 ml), water (2×20 ml), dried over MgSO4, fitered and concentrated in vacuo at 35° C. The crude material was subjected to chromatography on silica eluting with DCM:MeOH:NH3 (97:2:1) to provide the title compound (464 mg, 42%) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.88 (d, 2H), 4.00 (dd, 1H), 3.80-3.70 (m, 3H), 3.55 (td, 2H), 2.59-2.43 (m, 5H), 2.40 (s, 2H), 2.33 (dd, 1H), 2.21-2.04 (m, 3H), 1.97 (s, 6H), 1.88 (ddd, 2H), 1.82-1.70 (m, 4H), 1.08 (d, 3H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 3.87 mmol, 0.91 g | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-(3-chloro-2-methyl-propyl)-pyrrolidine | 3.10 mmol, 500 mg | ClCC(CN1CCCC1)C | C8H16ClN
reactant | K2CO3 | 15.50 mmol, 2.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Dimethyl-{4-[4-(2-methyl-3-pyrrolidin-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-amine | 464 mg, 42% | CN(CC1(CCOCC1)C1=CC=C(C=C1)OCC(CN1CCCC1)C)C | C22H36N2O2
